reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])(/[N:5]=[C:6](/[O:7][H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],31.4760407414122
[C:1]([C:2](=[C:3])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],9.045188777675705
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]([O:6][H:18])([H:16])[H:17])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[H:17])([H:7])([H:8])[H:9].[C:5]([O:6][H:18])[H:16],82.29151981880341
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([O:5][H:12])=[C:6]([H:14])[C:7]1([H:13])[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],90.4621051087238
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[C:6][H:14])([H:7])([H:8])[H:9]>>[C:1]([C:6](=[C:5]=[C:2]([C:3]([H:10])([H:11])[H:12])[O:4][H:13])[H:14])([H:7])([H:8])[H:9],90.513137195249
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:5]/[C:4](=[C:2](/[C:3]([H:12])([H:13])[H:14])[H:11])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],97.2925815931083
[C:3](=[C:4]([C:5]#[N:6])[H:13])([H:10])[H:11].[H:7][H:12].[O:1]=[C:2]([H:8])[H:9]>>[O:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],45.85264074071199
[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[N:3]([H:13])[C:4](=[N:5]/[H:14])/[C:6]1=[N:7]/[H:8],89.6306536782868
[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])/[N:4]=[C:5](/[O:6][H:10])[H:11])([H:7])([H:8])[H:9],44.2952344837442
[N:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])/[C:4](=[C:5](/[O:6][H:10])[H:11])[H:9])([H:7])[H:8],59.9170679814184
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[C:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C+:2]([C:3]([H:10])([H:11])[H:12])[C:5]([C:4]([H:13])([H:14])[H:15])=[C-:6][H:16])([H:7])([H:8])[H:9],85.44637585658259
[C:1](=[C:2])([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[C:1](#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],14.489877685445101
[C:1]([C:2](=[C:3]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[N:4](=[C:5](/[O:6][H:12])[C:7]([H:16])([H:17])[H:18])\[H:15]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],33.21012763948399
[C:1]([C:2](=[O:3])[C:4]([O:5][H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C-:2]=[O+:3][C:4]([O:5][H:11])([H:9])[H:10])([H:6])([H:7])[H:8],107.215692742089
[C:1]([C:2]#[C:3][C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[C:3]=[C:4]([C:5]([O:6][H:14])([H:12])[H:13])[H:11])([H:8])[H:9].[H:7][H:10],85.6106409238295
[O:1]([C:2]([C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C:3]([C:4][H:11])([H:9])[H:10])([H:7])[H:8])[H:6].[O:5]([H:12])[H:13],82.49859396308001
[H:8][H:9].[O:1]=[C:2]=[N:3][C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],60.89814001282571
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]1[C:4]([C:5]([O:6][H:10])([H:13])[H:14])([H:11])[H:12]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2,61.59307303973859
[C:1]1([H:7])([H:8])[C:2](=[C:4]=[C:5]([H:6])[H:9])[O:3]1>>[C:1]([C:2](=[O:3])[C:4]#[C:5][H:9])([H:6])([H:7])[H:8],65.48128313943411
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C-:4]([H:15])[O+:5]=[C:6]1[N:7]([H:14])[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10],43.6934858175934
[N:1](=[C:2](/[O:3][H:7])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])\[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],30.181694316165505
[C:1]([C:2]([C:5]([C:3](=[O:4])[H:12])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[C:6]([H:13])([H:16])([H:17])[H:18]>>[C:1]([C:2]([C:3]([O:4][H:13])([C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],97.47843575329625
[C:1]([C:2]([C:3]([C:4](=[C:5]=[C:6]([C:7]([H:17])([H:18])[H:19])[H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]#[C:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],83.13508917295314
